US07078405B2
8-Chloro-2-ethylimidazo[1,2-a]pyrazine-3-carbaldehyde
8-Chloro-2-ethylimidazo[1,2-a]pyrazine (600 mg, 3.3 mmol) was dissolved in N,N-dimethylformamide (3.3 mL), phosphorus oxychloride (1.2 mL, 13.2 mmol) was added dropwise at room temperature, and the mixture was heated under stirring at 90° C. for 2 hours. After being allowed to cool, the reaction mixture was poured into ice and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and evaporated to give the title compound (472 mg) as white crystals.

reactant | 8-Chloro-2-ethylimidazo[1,2-a]pyrazine | 3.3 mmol, 600 mg | ClC=1C=2N(C=CN1)C=C(N2)CC | C8H8ClN3
reactant | phosphorus oxychloride | 13.2 mmol, 1.2 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | 3.3 mL | CN(C=O)C | C3H7NO
product | 8-Chloro-2-ethylimidazo[1,2-a]pyrazine-3-carbaldehyde | 472 mg | ClC=1C=2N(C=CN1)C(=C(N2)CC)C=O | C9H8ClN3O
